US09399636B2
A round-bottomed flask was charged with 2,6-dichloro-4-[1-(oxetan-3-yl)-4-piperidyl]pyridine (1.00 g, 3.48 mmol), 4-(difluoromethyl)pyridin-2-amine (502 mg, 3.48 mmol), tris(dibenzylideneacetone)dipalladium(0) (82.2 mg, 2.5 mol %), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (125 mg, 6 mol %) and cesium carbonate (1.59 g, 4.87 mmol). The flask was sealed with a septum and purged with nitrogen gas before injecting anhydrous 1,4-dioxane (14 mL, 0.25 M). The reaction mixture was stirred at 80° C. for 22 hr before cooling to rt and filtering through Celite, rinsing with CH2Cl2. After concentration, flash column chromatography (100:0-95:5 CH2Cl2/MeOH) afforded 6-chloro-N-(4-(difluoromethyl)pyridin-2-yl)-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-2-amine as a colorless solid (1.06 g, 77%); 1H NMR (400 MHz, CDCl3) δ 8.38 (d, J=5.1 Hz, 1H), 7.53 (s, 1H), 7.46 (s, 1H), 7.34 (br s, 1H), 7.00 (d, J=5.1 Hz, 1H), 6.80 (s, 1H), 6.61 (t, J=55.8 Hz, 1H), 4.72-4.60 (m, 4H), 3.57-3.46 (m, 1H), 2.94-2.81 (m, 2H), 2.58-2.41 (m, 1H), 2.00-1.75 (m, 6H); ESI-LRMS m/z [M+1]+=395.

reactant | 2,6-dichloro-4-[1-(oxetan-3-yl)-4-piperidyl]pyridine | 3.48 mmol, 1.00 g | ClC1=NC(=CC(=C1)C1CCN(CC1)C1COC1)Cl | C13H16Cl2N2O
reactant | 4-(difluoromethyl)pyridin-2-amine | 3.48 mmol, 502 mg | FC(C1=CC(=NC=C1)N)F | C6H6F2N2
reactant | cesium carbonate | 4.87 mmol, 1.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 82.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 125 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 6-chloro-N-(4-(difluoromethyl)pyridin-2-yl)-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-2-amine | 1.06 g, 77% | ClC1=CC(=CC(=N1)NC1=NC=CC(=C1)C(F)F)C1CCN(CC1)C1COC1 | C19H21ClF2N4O
